US09255089B2
4-Bromo-2-chloroaniline (5000 mg, 24.22 mmol) was dissolved in trifluoroacetic acid (40 ml) and 1,2-dimethoxyethane (50 ml) then cooled under argon to 0° C. To the mixture was added 2-picoline borane complex (12951.34 mg, 121.08 mmol) and then the reaction mixture was heated 110° C. for 90 minutes. Solvents were removed under reduced pressure and crude material was taken up in 1N HCl and stirred at 110° C. 30 minutes. Crude mixture was then diluted with EtOAc and water and extracted EtOAc (3 times). Organics were washed with water then brine, dried over sodium sulfate and evaporated to dryness under reduced pressure. Crude material was purified by silica gel chromatography using EtOAc/Hexanes as the eluent to afford 4-bromo-2-chloro-N-(2,2,2-trifluoroethyl)aniline.

reactant | 4-Bromo-2-chloroaniline | 24.22 mmol, 5000 mg | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-bromo-2-chloro-N-(2,2,2-trifluoroethyl)aniline | BrC1=CC(=C(NCC(F)(F)F)C=C1)Cl | C8H6BrClF3N
